US07851473B2
(2) 2,2,2-Trichloroethyl (3-phenylisoxazol-5-yl)carbamate
To a solution of 3-phenylisoxazole-5-amine (420 mg, 2.62 mmol) and pyridine (0.636 ml, 7.87 mmol) in tetrahydrofuran (5 ml) was added 2,2,2-trichloroethyl chloroformate (0.542 ml, 3.93 mmol) with ice-cooling, the mixture was stirred for 30 minutes with ice-cooling, the reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain the desired product (750 mg, 85.3%) as a solid.

reactant | 3-phenylisoxazole-5-amine | 2.62 mmol, 420 mg | C1(=CC=CC=C1)C1=NOC(=C1)N | C9H8N2O
reactant | pyridine | 7.87 mmol, 0.636 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 3.93 mmol, 0.542 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (3-phenylisoxazol-5-yl)carbamate | 750 mg, 85.3% | C1(=CC=CC=C1)C1=NOC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
